US05455258
N-(t-Butyloxy)-2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetamide (1.15g, 2.42 mmol) is dissolved in methylene chloride (30.0 mL) and ethanol (0.20 mL) in a glass sealed tube. Hydrochloric acid gas (from a lecture bottle) is bubbled through the solution for 20 minutes, and then the tube is sealed and stands at room temperature overnight. The next day, additional hydrochloric acid gas is bubbled through the solution for 20 minutes, more ethanol (0.20 mL) is added, and then the tube is sealed and stands at room temperature for two days. After that time, the solvent is removed. The product is purified by silca gel chromatography (5% to 15% methanol/methylene chloride with ~1% ammonium hydroxide) to give N-hydroxy-2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetamide, m.p. 177°-178° C.

reactant | N-(t-Butyloxy)-2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetamide | 2.42 mmol, 1.15g | C(C)(C)(C)ONC(CN(CC1=NC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C23H27N3O5S
reactant | ethanol | 0.20 mL | C(C)O | C2H6O
solvent | methylene chloride | 30.0 mL | C(Cl)Cl | CH2Cl2
product | N-hydroxy-2-[[4-methoxybenzenesulfonyl](2-quinolinylmethyl)amino]acetamide | ONC(CN(CC1=NC2=CC=CC=C2C=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C19H19N3O5S
